US04329347
6-[4-(4-Pyridyl-mercapto)-butoxy]-3,4-dihydro-carbostyril
3.0 gm of 6-(4-bromo-butoxy)-3,4-dihydro-carbostyril were added to a solution of 1.3 gm of 4-mercapto-pyridine and 2.3 gm of a 30% sodium methylate solution in 15 ml of methanol, and the mixture was stirred for 14 hours at room temperature. Subsequently, the reaction solution was diluted with 20 ml of water and the resulting precipitate was recrystallized from ethanol.

reactant | 6-(4-bromo-butoxy)-3,4-dihydro-carbostyril | 3.0 gm | BrCCCCOC=1C=C2CCC(NC2=CC1)=O | C13H16BrNO2
reactant | 4-mercapto-pyridine | 1.3 gm | SC1=CC=NC=C1 | C5H5NS
reactant | sodium methylate | C[O-].[Na+]
solvent | methanol | 15 ml | CO | CH4O
solvent | water | 20 ml | O | H2O
product | 6-[4-(4-Pyridyl-mercapto)-butoxy]-3,4-dihydro-carbostyril | N1=CC=C(C=C1)SCCCCOC=1C=C2CCC(NC2=CC1)=O | C18H20N2O2S
